US06387950B2
Methyl 2,6-difluoro-4-[(3-methoxymethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-benzoate (Compound A)
To a solution of 3-methoxymethoxy-5,5,8,8,-tetramethyl-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid (Compound K, as described in U.S. Pat. No. 5,856,490, 112mg, 0.38 mmol) in 6 ml of anhydrous methylene chloride was added 4-(dimethylamino)pyridine (DMAP, 100 mg, 0.46mmol), methyl 2,6-difluoro-4-aminobenzoate (Compound H1, as described in U.S. Pat. No. 5,856,490, 77mg, 0.38mmol ) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC, 110 mg, 0.57 mmol). The reaction mixture was stirred at room temperature for overnight then concentrated to dryness. The residue was purified by column chromatography with ethyl acetate: hexane (1:9) to yield the title compound as a clear oil.

reactant | 3-methoxymethoxy-5,5,8,8,-tetramethyl-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid | COCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)O | C17H24O4
reactant | methyl 2,6-difluoro-4-aminobenzoate | FC1=C(C(=O)OC)C(=CC(=C1)N)F | C8H7F2NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.57 mmol, 110 mg | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.46mmol, 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 2,6-difluoro-4-[(3-methoxymethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-benzoate | FC1=C(C(=O)OC)C(=CC(=C1)NC(=O)C1=CC=2C(CCC(C2C=C1OCOC)(C)C)(C)C)F | C25H29F2NO5
